### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Transvection/Generation): non-exceptional case in Dieudonné's theorem

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
We prove the theorem of [Dieudonné-1955][J. Dieudonné, “Sur les générateurs
des groupes classiques”].

Let `K` be a division ring and `V` be a `K`-module.

* `LinearEquiv.mem_transvections_pow_mul_dilatransvections_of_fixedReduce_eq_one`:
  If `e.fixedReduce = 1`, then `e` can be written as the product
  of `finrank K (V ⧸ e.fixedSubmodule) - 1` transvections
  and one dilatransvection.
  This is the first part of the non-exceptional case in Dieudonné's theorem.
  (This statement is not interesting when `e = 1`.)

* `LinearEquiv.mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id`:
  If `e.fixedReduce` is not a homothety, then `e` can be written as the product
  of `finrank K (V ⧸ e.fixedSubmodule) - 1` transvections and one dilatransvection.
  This is the second part of the non-exceptional case in Dieudonné's theorem.

* `LinearEquiv.IsExceptional`:
  A linear equivalence `e : V ≃ₗ[K] V` is exceptional if `1 < finrank K (V ⧸ e.fixedSubmodule)`
  and if `e.fixedReduce` is a nontrivial homothety.

* `LinearEquiv.mem_dilatransvections_pow_of_notIsExceptional`:
  This is the non-exceptional case in Dieudonné's theorem,
  as a combination of the two preceding statements.

---

- [x] depends on: #33348 
- [x] depends on: #33282
- [x] depends on: #33347 
- [ ] depends on: #33387 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 1]
```diff
@@ -0,0 +1,524 @@
...
+
+/-- If an element `e : V ≃ₗ[K] V` is not exceptional,
+then it is the product of at most `finrank K (V ⧸ e.fixedSubmodule)` dilatransvections.
+
+This is the non-exceptional case in Dieudonné's theorem. -/
+theorem mem_dilatransvections_pow_of_not_isExceptional
+    {e : V ≃ₗ[K] V} (he : ¬ IsExceptional e) :
+    e ∈ transvections K V ^ (finrank K (V ⧸ e.fixedSubmodule) - 1) * dilatransvections K V := by
+  simp only [not_and_or] at he
+  push_neg at he
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
  push Not at he
```

File: Mathlib/LinearAlgebra/Transvection/Basic.lean [hunk 2]
```diff
@@ -424,6 +424,12 @@ theorem mem_dilatransvections_iff_rank_quotient {e : V ≃ₗ[K] V} :
 
 variable (e f : V ≃ₗ[K] V)
 
+/-
+theorem mem_stabilizer_submodule {W : Submodule K V} {u : V ≃ₗ[K] V} :
+    u ∈ stabilizer (V ≃ₗ[K] V) W ↔ map u.toLinearMap W = W := by
+  rfl
+-/
+
```
Comment (dagurtomas) [inline Mathlib/LinearAlgebra/Transvection/Basic.lean]:
```suggestion
```
?

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 3]
```diff
@@ -0,0 +1,524 @@
...
+      have hgev : g (e v) = 0 := by
+        rw [← hgv, ← sub_eq_zero, ← map_sub, ← Submodule.mem_bot K, ← hg2]
+        apply mem_map_of_mem
+        apply mem_sup_left
+        apply mem_sup_right
+        simp
+      have hfgv : (f + g) v = 1 := by
+        simp [hfv, hgv]
+      set e'' := t hg * e with e''_def
+      -- TODO : do a lemma
```
Comment (dagurtomas) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]: This huge proof probably needs to be split into lemmas, yes. Or at the very least documented a lot better.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean]: I can try to either document it or split it, yes.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean]: Please tell me what you think of it now. Another option would be to split it into two, because the non-exceptional case has two subcases, but that won't really help.

File: Mathlib/LinearAlgebra/Center.lean [hunk 4]
```diff
@@ -7,6 +7,7 @@ Authors: Antoine Chambert-Loir
 module
 
 public import Mathlib.LinearAlgebra.Transvection.Basic
+public import Mathlib.LinearAlgebra.Dual.Lemmas
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Center.lean]:
```suggestion
```
This is unused.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 5]
```diff
@@ -0,0 +1,526 @@
...
+    finrank K e.fixedSubmodule ≤ 1 + finrank K (f * e).fixedSubmodule := by
+  have := finrank_fixedSubmodule_add_le f e
+  have := finrank_le_one_add_finrank_fixedSubmodule_dilatransvection f hf
+  have : finrank K ↥(f.fixedSubmodule ⊔ e.fixedSubmodule) ≤ finrank K V :=
+    finrank_le _
+  linarith
+
+theorem finrank_fixedSubmodule_dilatransvection_mul_le (hf : f ∈ dilatransvections K V) :
+     finrank K (f * e).fixedSubmodule ≤ 1 + finrank K e.fixedSubmodule := by
+  conv_rhs => rw [show e = f⁻¹ * (f * e) from by aesop]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
  conv_rhs => rw [show e = f⁻¹ * (f * e) by simp]
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 6]
```diff
@@ -0,0 +1,526 @@
...
+    finrank K e.fixedSubmodule ≤ 1 + finrank K (e * f).fixedSubmodule := by
+  have := finrank_fixedSubmodule_add_le e f
+  have := finrank_le_one_add_finrank_fixedSubmodule_dilatransvection f hf
+  have : finrank K ↥(e.fixedSubmodule ⊔ f.fixedSubmodule) ≤ finrank K V :=
+    finrank_le _
+  linarith
+
+theorem finrank_fixedSubmodule_mul_dilatransvection_le (hf : f ∈ dilatransvections K V) :
+    finrank K (e * f).fixedSubmodule ≤ 1 + finrank K e.fixedSubmodule := by
+  conv_rhs => rw [show e = (e * f) * f⁻¹ from by aesop]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
  conv_rhs => rw [show e = (e * f) * f⁻¹ by simp]
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 7]
```diff
@@ -0,0 +1,526 @@
...
+  simp only [finrank_sup_span_singleton hu, ← add_assoc, finrank_quotient_add_finrank]
+
+/-- If `e : V ≃ₗ[K] V` is such that `e.fixedReduce = 1` and `e ≠ 1`,
+then `e` is the product of at most `finrank K (V ⧸ e.fixedSubmodule) - 1` transvections
+and one dilatransvection.
+
+This is the first non-exceptional case in Dieudonné's theorem. -/
+theorem mem_transvections_pow_mul_dilatransvections_of_fixedReduce_eq_one
+    {e : V ≃ₗ[K] V} (he : e.fixedReduce = 1) :
+    e ∈ transvections K V ^ (finrank K (V ⧸ e.fixedSubmodule) - 1)  * dilatransvections K V := by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
    e ∈ transvections K V ^ (finrank K (V ⧸ e.fixedSubmodule) - 1) * dilatransvections K V := by
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 8]
```diff
@@ -0,0 +1,526 @@
...
+      finrank K ↥(e.fixedSubmodule ⊔ f.fixedSubmodule) +
+        finrank K (e * f).fixedSubmodule := by
+  have := finrank_mono (fixedSubmodule_inf_fixedSubmodule_le_comp e.toLinearMap f.toLinearMap)
+  rwa [← Nat.add_le_add_iff_left, finrank_sup_add_finrank_inf_eq] at this
+
+theorem finrank_le_one_add_finrank_fixedSubmodule_dilatransvection
+    (he : e ∈ dilatransvections K V) :
+    finrank K V ≤ 1 + finrank K e.fixedSubmodule := by
+  rw [fixedSubmodule_eq_ker, add_comm, ← Nat.add_le_add_iff_left,
+    ← add_assoc,finrank_range_add_finrank_ker, add_comm]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
    ← add_assoc, finrank_range_add_finrank_ker, add_comm]
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 9]
```diff
@@ -0,0 +1,526 @@
...
+        specialize this x
+        set z := g (e x) • (v - e v) - c • x with hz
+        suffices that : - (1 / c) • z + (- 1/c * g (e x)) • (e v - v) = x by
+          refine ⟨_, ?_, _, that⟩
+          exact smul_mem (e.fixedSubmodule ⊔ K ∙ v) (-(1 / c)) this
+        rw [← IsUnit.smul_left_cancel (a := c)]
+        · simp only [one_div, neg_smul, smul_add, smul_neg, hz, ← mul_smul]
+          simp only [← mul_assoc c, neg_div, mul_neg, one_div]
+          simp only [mul_inv_cancel₀ hc, one_smul, neg_one_mul]
+          -- Should be taken care of by a `module` tactic that handles noncommutatie
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
          -- Should be taken care of by a `module` tactic that handles noncommutative
```

**Review by riccardobrasca — COMMENTED** [review]
Can you please merge master? The cache doesn't work with the new system.

File: Mathlib/LinearAlgebra/Center.lean [hunk 10]
```diff
@@ -54,6 +54,16 @@ namespace LinearMap
...
 
+theorem mem_center_of_apply_eq_smul [Semiring R] [AddCommMonoid V]
+    [Module R V] {f : V →ₗ[R] V} {a : R}
+    (hf : ∀ x, f x = a • x) :
+    f ∈ center (End R V) := by
+  simp only [mem_center_iff, isMulCentral_iff, mul_assoc,
+    implies_true, and_self, and_true, commute_iff_eq]
+  intro g
+  ext x
+  simp [hf]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Center.lean]:
```suggestion
  simp [mem_center_iff, isMulCentral_iff, commute_iff_eq, mul_assoc, LinearMap.ext_iff, hf]
```
If you want.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 11]
```diff
@@ -0,0 +1,526 @@
...
+
+module
+
+public import Mathlib.LinearAlgebra.Center
+public import Mathlib.LinearAlgebra.Transvection.Basic
+
+/-!
+# Dilatransvections generate the special linear group
+
+We prove the theorem of [Dieudonné-1955][J. Dieudonné, “Sur les générateurs
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]: Can you add this to `references.bib`?

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 12]
```diff
@@ -0,0 +1,526 @@
...
+          rw [neg_sub, neg_smul, ← sub_eq_add_neg, sub_sub,
+            ← smul_add]
+          simp
+        · rwa [isUnit_iff_ne_zero]
+
+/-- If an element `e : V ≃ₗ[K] V` is not exceptional,
+then it is the product of at most `finrank K (V ⧸ e.fixedSubmodule)` dilatransvections.
+
+This is the non-exceptional case in Dieudonné's theorem. -/
+theorem mem_dilatransvections_pow_of_not_isExceptional
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]: Maybe `mem_transvections_pow_mul_dilatransvections_of_not_isExceptional`? But not very important.

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean]: If you change it please don't forget to update the docstring at the beginning.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 13]
```diff
@@ -0,0 +1,526 @@
...
+    {hf : e.fixedSubmodule ⊔ K ∙ (e u - u) ≤ LinearMap.ker f}
+    (hfu : f u = 1) (hu : u ∉ e.fixedSubmodule) :
+    finrank K (V ⧸ (auxTransvection hf * e).fixedSubmodule) + 1 = finrank K (V ⧸ e.fixedSubmodule)
+    := by
+  rw [add_comm, ← Nat.add_left_inj (n := 1), add_assoc, add_comm _ 1,
+    ← Nat.add_left_inj, add_assoc, add_assoc, finrank_quotient_add_finrank, ← add_assoc, add_comm]
+  conv_rhs => rw [auxTransvection_mul_fixed hfu, add_assoc, add_comm 1, ← add_assoc]
+  simp only [finrank_sup_span_singleton hu, ← add_assoc, finrank_quotient_add_finrank]
+
+/-- If `e : V ≃ₗ[K] V` is such that `e.fixedReduce = 1` and `e ≠ 1`,
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]: `e ≠ 1` does not exist in the actual statement.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 14]
```diff
@@ -0,0 +1,526 @@
...
+theorem le_one_add_finrank_fixedSubmodule_dilatransvection_mul (hf : f ∈ dilatransvections K V) :
+    finrank K e.fixedSubmodule ≤ 1 + finrank K (f * e).fixedSubmodule := by
+  have := finrank_fixedSubmodule_add_le f e
+  have := finrank_le_one_add_finrank_fixedSubmodule_dilatransvection f hf
+  have : finrank K ↥(f.fixedSubmodule ⊔ e.fixedSubmodule) ≤ finrank K V :=
+    finrank_le _
+  linarith
+
+theorem finrank_fixedSubmodule_dilatransvection_mul_le (hf : f ∈ dilatransvections K V) :
+     finrank K (f * e).fixedSubmodule ≤ 1 + finrank K e.fixedSubmodule := by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
    finrank K (f * e).fixedSubmodule ≤ 1 + finrank K e.fixedSubmodule := by
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 15]
```diff
@@ -0,0 +1,526 @@
...
+    suffices transvection hfv x = x by
+      simp only [mem_fixedSubmodule_iff, LinearEquiv.coe_toLinearMap] at hx
+      simp only [hx, this]
+    rw [← LinearEquiv.coe_toLinearMap, ← mem_fixedSubmodule_iff]
+    exact ht hx
+  · -- u ∈ e.fixedSubmodule
+    simp only [mem_fixedSubmodule_iff, LinearEquiv.coe_toLinearMap,
+      LinearEquiv.mul_apply, transvection.apply]
+    simp [hfv']
+
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean:142]:
```suggestion
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 16]
```diff
@@ -0,0 +1,526 @@
...
+  rw [← inv_mem_dilatransvections_iff] at hf
+  exact le_one_add_finrank_fixedSubmodule_mul_dilatransvection (e * f) f⁻¹ hf
+
+theorem fixedSubmodule_transvection_mul
+    {f : Dual K V} {v : V} {e : V ≃ₗ[K] V}
+    (hv : v ∉ e.fixedSubmodule) (hf : e.fixedSubmodule.map f = ⊥)
+    (hfv : f (v - e v) = 0) (hfv' : f (e v) = 1) :
+    (transvection hfv * e).fixedSubmodule = e.fixedSubmodule ⊔ (Submodule.span K {v}) := by
+  symm
+  suffices _ by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]: Can you fill the `_` or find a better statement? It's a bit unclear like this.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 17]
```diff
@@ -0,0 +1,526 @@
...
+  linarith
+
+theorem finrank_fixedSubmodule_mul_dilatransvection_le (hf : f ∈ dilatransvections K V) :
+    finrank K (e * f).fixedSubmodule ≤ 1 + finrank K e.fixedSubmodule := by
+  conv_rhs => rw [show e = (e * f) * f⁻¹ by simp]
+  rw [← inv_mem_dilatransvections_iff] at hf
+  exact le_one_add_finrank_fixedSubmodule_mul_dilatransvection (e * f) f⁻¹ hf
+
+theorem fixedSubmodule_transvection_mul
+    {f : Dual K V} {v : V} {e : V ≃ₗ[K] V}
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
    {f : Dual K V} {v : V}
```
`e` is already in scope (you can probably move the rest a bit).

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 18]
```diff
@@ -0,0 +1,526 @@
...
+      by_cases hc : c = 0
+      · -- When `c = 0`, we contradict the linear independence given by `hv`
+        apply one_ne_zero (α := K)
+        rw [LinearIndependent.pair_iff] at hv
+        have : v - e v ∈ e.fixedSubmodule ⊔ K ∙ v := by
+          simp only [hc, zero_smul, sub_zero] at this
+          have : ∃ x, g (e x) = 1 := by
+            suffices ∃ w, g w ≠ 0 by
+              obtain ⟨w, hw⟩ := this
+              use (1 / g w) • e⁻¹ w
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
              use (g w)⁻¹ • e⁻¹ w
```
It's more idiomatic.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 19]
```diff
@@ -0,0 +1,526 @@
...
+      · -- `finrank` condition
+        rw [← Nat.add_left_inj, finrank_mod_auxTransvection_mul_fixed hv hv_notMem, h]
+
+/-- If an element `e : V ≃ₗ[K] V` is such that `e.fixedReduce`
+is not a homothety, then `e` is the product of at
+most `finrank K (V ⧸ e.fixedSubmodule) - 1` transvections
+and one dilatransvection.
+
+This is the second non-exceptional case in Dieudonné's theorem. -/
+theorem mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean:417]: This proof is gigantic: do you think it's possible to split it?

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 20]
```diff
@@ -0,0 +1,526 @@
...
+      have hv' : v - e v ∈ e.fixedSubmodule := by
+        rw [← e.fixedSubmodule.ker_mkQ, LinearMap.mem_ker,
+          map_sub, sub_eq_zero]
+        simp [← fixedReduce_mk, he]
+      set t := auxTransvection (e := e) (f := f) (u := v) (by
+        simp only [sup_le_iff, hf, true_and, span_singleton_le_iff_mem]
+        apply hf
+        rw [← e.fixedSubmodule.ker_mkQ, LinearMap.mem_ker,
+          map_sub, sub_eq_zero]
+        simp [← fixedReduce_mk, he]) with ht
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
      set t := auxTransvection (e := e) (f := f) (u := v) (by
        simpa [hf] using hf (sub_mem_comm_iff.mp hv')) with ht
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean]: Yep.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean:417]: I don't know how to do that. There's an induction. Two cases are easy. In the serious one, one starts with a. natural attempt, and if it doesn't, then one modifies it…

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean:417]: I will try to split it tomorrow, otherwise LGTM.

**Comment by riccardobrasca** [comment]
Can you fix the error? I think merging master will do it.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean:417]: Thanks. The interesting question to me is how the series of small adjustments that appears in the proof (introducing v, normalizing everything, etc.) could be automatized somewhat. Otherwise, it's a long proof, but nothing serious is repeated and splitting it will  likely create lemmas of the form IND + HYP A -> CONCLUSION, IND + NEG(HYP A) + -> CONCLUSION, etc.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 21]
```diff
@@ -0,0 +1,516 @@
...
+variable {e} in
+private theorem finrank_mod_auxTransvection_mul_fixed {f : Dual K V} {u : V}
+    {hf : e.fixedSubmodule ⊔ K ∙ (e u - u) ≤ LinearMap.ker f}
+    (hfu : f u = 1) (hu : u ∉ e.fixedSubmodule) :
+    finrank K (V ⧸ (auxTransvection hf * e).fixedSubmodule) + 1 = finrank K (V ⧸ e.fixedSubmodule)
+    := by
+  rw [add_comm, ← Nat.add_left_inj (n := 1), add_assoc, add_comm _ 1,
+    ← Nat.add_left_inj, add_assoc, add_assoc, finrank_quotient_add_finrank, ← add_assoc, add_comm]
+  conv_rhs => rw [auxTransvection_mul_fixed hfu, add_assoc, add_comm 1, ← add_assoc]
+  simp only [finrank_sup_span_singleton hu, ← add_assoc, finrank_quotient_add_finrank]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean]:
```suggestion
theorem finrank_quotient_sup_span_singleton {W : Submodule K V} {v : V} (hv : v ∉ W) :
    finrank K (V ⧸ (W ⊔ K ∙ v)) + 1 = finrank K (V ⧸ W) := by
  have h1 := finrank_quotient_add_finrank (W ⊔ K ∙ v)
  have h2 := finrank_quotient_add_finrank W
  rw [finrank_sup_span_singleton hv] at h1
  omega

theorem sup_span_singleton_lt_top {W : Submodule K V} (v : V)
    (hW : 1 < finrank K (V ⧸ W)) : W ⊔ K ∙ v < ⊤ := by
  rw [lt_top_iff_ne_top]
  intro htop
  have h1 := finrank_quotient_add_finrank W
  have h2 : finrank K ↥(W ⊔ K ∙ v) ≤ finrank K W + 1 := by
    refine le_trans (Submodule.finrank_add_le_finrank_add_finrank _ _) ?_
    simp only [add_le_add_iff_left]
    exact le_trans (finrank_span_le_card {v}) (by simp)
  rw [htop, finrank_top] at h2
  omega

variable {e} in
private theorem finrank_mod_auxTransvection_mul_fixed {f : Dual K V} {u : V}
    {hf : e.fixedSubmodule ⊔ K ∙ (e u - u) ≤ LinearMap.ker f}
    (hfu : f u = 1) (hu : u ∉ e.fixedSubmodule) :
    finrank K (V ⧸ (auxTransvection hf * e).fixedSubmodule) + 1 = finrank K (V ⧸ e.fixedSubmodule)
    := by
  rw [auxTransvection_mul_fixed hfu]
  exact finrank_quotient_sup_span_singleton hu
```

File: Mathlib/LinearAlgebra/Transvection/Generation.lean [hunk 22]
```diff
@@ -0,0 +1,516 @@
...
+  simp only [not_and_or] at he
+  push Not at he
+  rcases he with he | he | he
+  · simpa [Nat.sub_eq_zero_of_le he, mem_dilatransvections_iff_finrank_quotient] using he
+  · exact mem_transvections_pow_mul_dilatransvections_of_fixedReduce_eq_one he
+  · exact mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id he
+
+end LinearEquiv
+
+end
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Transvection/Generation.lean:499]:
```suggestion
/- Private lemmas for the second non-exceptional case. -/

omit [Module.Finite K V] in
variable {e} in
/-- If the images of `u` and `e u` in `V ⧸ e.fixedSubmodule` are linearly independent,
then `e u` does not belong to `e.fixedSubmodule ⊔ K ∙ (e u - u)`. -/
private theorem apply_notMem_sup_of_linearIndependent {u : V}
    (hu : LinearIndependent K
      ![e.fixedSubmodule.mkQ u, e.fixedReduce (e.fixedSubmodule.mkQ u)]) :
    e u ∉ e.fixedSubmodule ⊔ K ∙ (e u - u) := fun hu' ↦ by
  rw [Submodule.mem_sup] at hu'
  obtain ⟨y, hy, z, hz, hu'⟩ := hu'
  rw [Submodule.mem_span_singleton] at hz
  obtain ⟨a, rfl⟩ := hz
  simp only [LinearIndependent.pair_iff] at hu
  specialize hu a (1 - a) ?_
  · simp only [← LinearMap.map_smul, ← LinearEquiv.map_smul]
    simp only [Submodule.mkQ_apply, fixedReduce_mk]
    simp only [← Submodule.mkQ_apply, ← map_add, ← mem_ker,
      Submodule.ker_mkQ]
    convert hy
    grind [smul_sub, sub_smul, one_smul, map_smul]
  aesop

omit [Module.Finite K V] in
variable {e} in
/-- If `e.fixedReduce` is not a homothety, then there are a linear form `f` and
a vector `v` such that `f` vanishes on `e.fixedSubmodule ⊔ K ∙ (e v - v)`, `f v = 1`,
and the images of `v` and `e v` in `V ⧸ e.fixedSubmodule` are linearly independent. -/
private theorem exists_dual_of_fixedReduce_ne_smul
    (he : ∀ a : K, ∃ x, e.fixedReduce x ≠ a • x)
    (h : 1 < finrank K (V ⧸ e.fixedSubmodule)) :
    ∃ (f : Dual K V) (v : V),
      LinearIndependent K ![e.fixedSubmodule.mkQ v, e.fixedReduce (e.fixedSubmodule.mkQ v)] ∧
        e.fixedSubmodule ⊔ K ∙ (e v - v) ≤ LinearMap.ker f ∧ f v = 1 := by
  -- Since `e.fixedReduce` is not a homothety, there is `v : V ⧸ e.fixedSubmodule` such
  -- that `v` and `e.fixedReduce v` are linearly independent.
  have : ∃ v, LinearIndependent K ![v, e.fixedReduce v] := by
    contrapose! he
    obtain ⟨a, ha⟩ :=
      LinearMap.exists_mem_center_apply_eq_smul_of_forall_notLinearIndependent h.ne' he
    refine ⟨a, fun x ↦ by
      simp only [← coe_toLinearMap, ha, LinearMap.smul_apply, one_apply, Subring.smul_def]⟩
  obtain ⟨v, hu⟩ := this
  -- We lift `v` to `u : V`.
  obtain ⟨u, rfl⟩ := e.fixedSubmodule.mkQ_surjective v
  -- We can take `f : Dual K V` which vanishes on `e.fixedSubmodule ⊔ K ∙ (e u - u)`
  -- and satisfies `f u ≠ 0`, and we rescale `u` to `v` so that `f v = 1`.
  obtain ⟨f, hfu, hf⟩ :=
    exists_dual_map_eq_bot_of_notMem (apply_notMem_sup_of_linearIndependent hu) inferInstance
  replace hfu : f u ≠ 0 := by
    contrapose hfu
    rw [← hfu, ← sub_eq_zero, ← map_sub, ← Submodule.mem_bot K, ← hf]
    exact mem_map_of_mem (mem_sup_right (mem_span_singleton_self _))
  set v := (f u)⁻¹ • u with v_def
  have hspan : K ∙ (e v - v) = K ∙ (e u - u) := by
    simp only [Submodule.span_singleton_eq_span_singleton]
    use (Ne.isUnit hfu).unit
    simp [v_def, _root_.map_smul, Units.smul_isUnit, smul_sub,
      ← mul_smul, mul_inv_cancel₀ hfu]
  rw [← hspan, ← le_ker_iff_map] at hf
  refine ⟨f, v, ?_, hf,
    by simp only [_root_.map_smul, smul_eq_mul, v_def, inv_mul_cancel₀ hfu]⟩
  rw [← LinearIndependent.pair_smul_smul_iff (Ne.isUnit hfu).inv (Ne.isUnit hfu).inv] at hu
  simpa only [← LinearMap.map_smul, ← LinearEquiv.map_smul, ← v_def] using hu

variable {e} in
/-- Auxiliary lemma for the second non-exceptional case in Dieudonné's theorem:
with the notation of the proof of
`mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id`,
the reductions of `auxTransvection hf * e` and `auxTransvection hg * e`
cannot both be homotheties. -/
private theorem not_forall_fixedReduce_eq_smul {f g : Dual K V} {v : V} {a b : K}
    (hv : LinearIndependent K
      ![e.fixedSubmodule.mkQ v, e.fixedReduce (e.fixedSubmodule.mkQ v)])
    {hf : e.fixedSubmodule ⊔ K ∙ (e v - v) ≤ LinearMap.ker f} (hfv : f v = 1)
    {hg : e.fixedSubmodule ⊔ K ∙ (e v - v) ≤ LinearMap.ker (f + g)} (hfgv : (f + g) v = 1)
    (hg0 : g ≠ 0) (hne_top : e.fixedSubmodule ⊔ K ∙ (e v - v) ⊔ K ∙ v < ⊤)
    (ha : ∀ x, (auxTransvection hf * e).fixedReduce x = a • x)
    (hb : ∀ x, (auxTransvection hg * e).fixedReduce x = b • x) :
    False := by
  simp only [fixedReduce_eq_smul_iff, auxTransvection_mul_fixed hfv] at ha
  simp only [fixedReduce_eq_smul_iff, auxTransvection_mul_fixed hfgv] at hb
  /- Since `auxTransvection hf = transvection f (v - e v)` and
    `auxTransvection hg = transvection (f + g) (v - e v)`,
    subtracting the relations `ha` and `hb` gives the following: -/
  set c := b - a with hc
  have key (x : V) : g (e x) • (v - e v) - c • x ∈ e.fixedSubmodule ⊔ K ∙ v := by
    have ha := ha x
    have hb := hb x
    simp only [LinearEquiv.mul_apply, transvection.apply, auxTransvection] at ha hb
    rw [LinearMap.add_apply, add_smul, ← add_assoc] at hb
    convert Submodule.sub_mem _ hb ha using 1
    -- should be taken care by a `module` tactic that handles noncommutative rings
    simp only [add_comm _ (g (e x) • _), ← add_assoc]
    rw [sub_eq_add_neg]
    simp only [add_sub_assoc, add_assoc, add_right_inj, sub_smul, smul_sub, hc]
    abel
  -- To get the contradiction, we distinguish whether `a = b` or not.
  rcases eq_or_ne c 0 with hc0 | hc0
  · -- When `c = 0`, we contradict the linear independence given by `hv`
    apply one_ne_zero (α := K)
    rw [LinearIndependent.pair_iff] at hv
    have hmem : v - e v ∈ e.fixedSubmodule ⊔ K ∙ v := by
      simp only [hc0, zero_smul, sub_zero] at key
      obtain ⟨w, hw⟩ : ∃ w, g w ≠ 0 := by
        contrapose! hg0
        exact LinearMap.ext hg0
      simpa [hw] using key ((g w)⁻¹ • e⁻¹ w)
    simp only [mem_sup, mem_span_singleton, exists_exists_eq_and] at hmem
    obtain ⟨y, hy, k, hk⟩ := hmem
    refine (hv (k - 1) 1 ?_).right
    simp only [Submodule.mkQ_apply, fixedReduce_mk]
    simp only [← e.fixedSubmodule.mkQ_apply, ← LinearMap.map_smul, ← map_add,
      ← LinearMap.mem_ker, Submodule.ker_mkQ]
    rw [← Submodule.neg_mem_iff] at hy
    convert hy using 1
    rw [eq_comm, ← sub_eq_iff_eq_add] at hk
    rw [← hk]
    simp only [sub_smul, one_smul]
    abel
  · -- When `c ≠ 0`, we contradict `hne_top`
    refine hne_top.ne ?_
    rw [eq_top_iff]
    intro x _
    have h1 : g (e x) • (v - e v) ∈ K ∙ (e v - v) :=
      mem_span_singleton.mpr ⟨-g (e x), by rw [neg_smul, smul_sub, smul_sub, neg_sub]⟩
    have hle : e.fixedSubmodule ⊔ K ∙ v ≤ e.fixedSubmodule ⊔ K ∙ (e v - v) ⊔ K ∙ v :=
      sup_le_sup_right le_sup_left _
    have h2 : c • x ∈ e.fixedSubmodule ⊔ K ∙ (e v - v) ⊔ K ∙ v := by
      rw [show c • x = g (e x) • (v - e v) - (g (e x) • (v - e v) - c • x) by abel]
      exact Submodule.sub_mem _ (mem_sup_left (mem_sup_right h1)) (hle (key x))
    simpa [smul_smul, inv_mul_cancel₀ hc0] using Submodule.smul_mem _ c⁻¹ h2

/-- If an element `e : V ≃ₗ[K] V` is such that `e.fixedReduce`
is not a homothety, then `e` is the product of at
most `finrank K (V ⧸ e.fixedSubmodule) - 1` transvections
and one dilatransvection.

This is the second non-exceptional case in Dieudonné's theorem. -/
theorem mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id
    {e : V ≃ₗ[K] V}
    (he : ∀ a : K, ∃ x, e.fixedReduce x ≠ a • x) :
    e ∈ transvections K V ^ (finrank K (V ⧸ e.fixedSubmodule) - 1) * dilatransvections K V := by
  induction h : finrank K (V ⧸ e.fixedSubmodule) generalizing e he with
  | zero => simp [mem_dilatransvections_iff_finrank_quotient, h]
  | succ n hind =>
    match n with
    | 0 => simp [mem_dilatransvections_iff_finrank_quotient, h]
    | n + 1 =>
      simp only [ne_eq, add_tsub_cancel_right] at hind ⊢
      simp only [add_assoc, Nat.reduceAdd] at h
      rw [pow_succ', mul_assoc, Set.mem_mul]
      /- The strategy is similar to the first non-exceptional case:
        we construct `f : Dual K V` and `v : V` such that,
        setting `t = auxTransvection hf`, we have `e = t⁻¹ * (t * e)`
        and `t * e` satisfies the induction hypothesis,
        after possibly replacing `f` by `f + g` for a suitable `g`. -/
      obtain ⟨f, v, hv, hf, hfv⟩ := exists_dual_of_fixedReduce_ne_smul he (by omega)
      have hv_notMem : v ∉ e.fixedSubmodule := by
        simpa [Submodule.Quotient.mk_eq_zero] using hv.ne_zero 0
      have hrank : finrank K (V ⧸ (e.fixedSubmodule ⊔ K ∙ v)) = n + 1 := by
        have := finrank_quotient_sup_span_singleton hv_notMem
        omega
      -- The case `n = 0` is easy
      rcases Nat.eq_zero_or_pos n with hn0 | hn_pos
      · simp only [hn0, pow_zero, one_mul]
        refine ⟨(auxTransvection hf)⁻¹, ?_, auxTransvection hf * e, ?_, by simp⟩
        · rw [inv_mem_transvections_iff]
          apply mem_transvections
        · rw [mem_dilatransvections_iff_finrank_quotient,
            auxTransvection_mul_fixed hfv, hrank, hn0, zero_add]
      by_cases he' : auxTransvection hf * e ∈ transvections K V ^ n * dilatransvections K V
      · -- This is the easy case where one knows that `auxTransvection hf * e` is
        -- the product of at most `n + 1` transvections
        refine ⟨(auxTransvection hf)⁻¹, ?_, auxTransvection hf * e, he', by simp⟩
        rw [inv_mem_transvections_iff]
        apply mem_transvections
      -- Otherwise, we will need to modify `auxTransvection hf` by changing `f`.
      have hne_top : e.fixedSubmodule ⊔ K ∙ (e v - v) ⊔ K ∙ v < ⊤ := by
        rw [sup_right_comm]
        exact sup_span_singleton_lt_top _ (by rw [hrank]; omega)
      obtain ⟨g : Dual K V, hg0 : g ≠ 0, hg2⟩ :=
        Submodule.exists_dual_map_eq_bot_of_lt_top hne_top inferInstance
      rw [← le_ker_iff_map] at hg2
      have hg : e.fixedSubmodule ⊔ K ∙ (e v - v) ≤ ker (f + g) := fun x hx ↦ by
        rw [mem_ker, LinearMap.add_apply, mem_ker.mp (hf hx),
          mem_ker.mp (hg2 (mem_sup_left hx)), add_zero]
      have hfgv : (f + g) v = 1 := by
        rw [LinearMap.add_apply, hfv,
          mem_ker.mp (hg2 (mem_sup_right (mem_span_singleton_self v))), add_zero]
      refine ⟨(auxTransvection hg)⁻¹, ?_, auxTransvection hg * e, ?_, by simp⟩
      · rw [inv_mem_transvections_iff]
        apply mem_transvections
      -- It remains to prove that `auxTransvection hg * e` satisfies the induction hypothesis
      apply hind ?_ (by rw [auxTransvection_mul_fixed hfgv, hrank])
      -- The induction hypothesis implies that `(auxTransvection hf * e).fixedReduce`
      -- is a homothety, for otherwise the previous case would apply.
      obtain ⟨a, ha⟩ : ∃ a : K, ∀ x, (auxTransvection hf * e).fixedReduce x = a • x := by
        contrapose! he'
        exact hind he' (by rw [auxTransvection_mul_fixed hfv, hrank])
      -- Then `(auxTransvection hg * e).fixedReduce` cannot also be a homothety.
      intro b
      by_contra! hb
      exact not_forall_fixedReduce_eq_smul hv hfv hfgv hg0 hne_top ha hb

/-- If an element `e : V ≃ₗ[K] V` is not exceptional,
then it is the product of at most `finrank K (V ⧸ e.fixedSubmodule)` dilatransvections.

This is the non-exceptional case in Dieudonné's theorem. -/
theorem mem_transvections_pow_mul_dilatransvections_of_not_isExceptional
    {e : V ≃ₗ[K] V} (he : ¬ IsExceptional e) :
    e ∈ transvections K V ^ (finrank K (V ⧸ e.fixedSubmodule) - 1) * dilatransvections K V := by
  simp only [not_and_or] at he
  push Not at he
  rcases he with he | he | he
  · simpa [Nat.sub_eq_zero_of_le he, mem_dilatransvections_iff_finrank_quotient] using he
  · exact mem_transvections_pow_mul_dilatransvections_of_fixedReduce_eq_one he
  · exact mem_transvections_pow_mul_dilatransvections_of_fixedReduce_ne_smul_id he

end LinearEquiv

end
```

**Review by riccardobrasca — COMMENTED** [review]
What do you think of this version? The second suggestion uses the first one, so be sure to have a look at them in order.

File: Mathlib/LinearAlgebra/Transvection/Generation.lean (hunk 21 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Transvection/Generation.lean]: I like these three lemmas.

**Comment by AntoineChambert-Loir** [comment]
At least you were right in believing it could be shortened !

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
